US04291049
Preparation of N-(2,6-dimethylphenyl)-N-(1-carbomethoxy-ethyl)-phenylacetamide (compound 4, Table 1).
17 g (0.11 mol) of phenylacetylchloride were added dropwise in 30 minutes and at room temperature, to a solution of N-(1-carbomethoxy-ethyl)-2,6-dimethyl-aniline(21.2 g at a purity of 95%, 0.1 mol) in toluene (150 ml) and dimethylformamide (1 ml.). The reaction mixture was stirred 1 hour at room temperature and 3 hours at reflux temperature, then it was cooled down to room temperature and washed with an aqueous solution of NaHCO3 at 5% and successively with water. The organic phase was separated and anhydrified with anhydrous Na2SO4. The solvent was evaporated and the rough product obtained was recrystallized from ligroin (75°-120° C.), so obtaining 26 g. of the desired product (white solid, m.p. 78°-80° C.).

reactant | phenylacetylchloride | 0.11 mol, 17 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | N-(1-carbomethoxy-ethyl)-2,6-dimethyl-aniline | C(=O)(OC)C(C)NC1=C(C=CC=C1C)C | C12H17NO2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(2,6-dimethylphenyl)-N-(1-carbomethoxy-ethyl)-phenylacetamide | CC1=C(C(=CC=C1)C)N(C(CC1=CC=CC=C1)=O)C(C)C(=O)OC | C20H23NO3
